US04473568
9-Fluoro-2,3-dihydro-3-methyl-7-oxo-10-(4-thiomorpholinyl)-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid
A mixture of 0.18 g (0.6 mmol) of 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid, 0.3 ml (3.0 mmol) of thiomorpholine and 20 ml of pyridine was heated under reflux for 21 hours. The solution was evaporated to dryness, the residue was triturated with hot methanol, and filtered to give 0.05 g of the title compound, mp>300°.

reactant | 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 0.6 mmol, 0.18 g | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | thiomorpholine | 3.0 mmol, 0.3 ml | N1CCSCC1 | C4H9NS
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 9-Fluoro-2,3-dihydro-3-methyl-7-oxo-10-(4-thiomorpholinyl)-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 0.05 g | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)N1CCSCC1 | C17H17FN2O4S
